US07659424B2
10% palladium activated carbon (20 mg) was added to an ethanol solution (5 mL) of (2R, 3S)-ethyl 2-(N′-benzoylhydrazino)-3-methyl-4-pentenoate (116 mg, 0.4 mmol), and the reaction mixture was stirred at a room temperature for 12 hours. The reaction mixture was filtered to obtain filtrate, and the palladium activated carbon was washed with ethanol (15 mL). The filtrate and the ethanol were distillated under a reduced pressure to remove the solvent, and the residue was purified and isolated by silica gel column chromatography (hexane/ethyl acetate=2/1) to obtain (2R, 3S)-ethyl 2-(N′-benzoylhydrazino)-3-methylpentanoate (80 mg, yield: 70%):

reactant | (2R, 3S)-ethyl 2-(N′-benzoylhydrazino)-3-methyl-4-pentenoate | 0.4 mmol, 116 mg | C(C1=CC=CC=C1)(=O)NN[C@@H](C(=O)OCC)[C@H](C=C)C | C15H20N2O3
catalyst | palladium activated carbon | 20 mg | [Pd] | Pd
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (2R, 3S)-ethyl 2-(N′-benzoylhydrazino)-3-methylpentanoate | 80 mg, yield: 70% | C(C1=CC=CC=C1)(=O)NN[C@@H](C(=O)OCC)[C@H](CC)C | C15H22N2O3
